US08293763B2
Step 2: 2,3-Dichloro-isonicotinic acid methyl ester
To a suspension of 2,3-dichloro-isonicotinic acid (7.7 g, 40 mmol) in dichloromethane (45 mL) were added DMF (0.1 mL) and oxalyl chloride (17.5 mL, 200 mmol). The reaction mixture was stirred at room temperature for 18 hours and then concentrated under reduced pressure. The resultant residue was azeotroped with toluene, then cooled to 0° C. and dissolved in methanol (135 mL). The mixture was allowed to warm to room temperature and then concentrated under reduced pressure to give a residue. The residue was dissolved in ethyl acetate and the resulting solution was washed with a saturated solution of sodium hydrogen carbonate, water and brine, dried (Na2SO4), filtered and concentrated to give the title compound as a colourless oil that crystallised on standing (7.9 g, 96%). 1H NMR (CDCl3, 400MHz) 8.38 (d, J=5.0 Hz, 1H), 7.52 (d, J=5.0 Hz, 1H), 3.99 (s, 3H).

reactant | 2,3-dichloro-isonicotinic acid | 40 mmol, 7.7 g | ClC=1C(=C(C(=O)O)C=CN1)Cl | C6H3Cl2NO2
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 200 mmol, 17.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dichloro-isonicotinic acid methyl ester | COC(C1=C(C(=NC=C1)Cl)Cl)=O | C7H5Cl2NO2
